*50ns and 70 ns
.include RING.sub
.include TSMC_180nm.txt
.include NAND.sub
.subckt and bit1_a bit1_b bit1_c bit1_d bit2_a bit2_b bit2_c bit2_d r_1 r_2 r_3 r_4 vdd gnd
X1 bit1_a bit2_a result_1 vdd gnd NAND
X2 bit1_b bit2_b result_2 vdd gnd NAND
X3 bit1_c bit2_c result_3 vdd gnd NAND
X4 bit1_d bit2_d result_4 vdd gnd NAND
X5 result_1 r_1 vdd gnd RING
X6 result_2 r_2 vdd gnd RING
X7 result_3 r_3 vdd gnd RING
X8 result_4 r_4 vdd gnd RING
.ends and
