.include RING.sub
.include NAND.sub
.subckt  make_AND input1_node input2_node output_node vdd gnd
X1 input1_node input2_node intermediate vdd gnd NAND
X2 intermediate output_node vdd gnd RING
.ends make_AND