.include RING.sub
.include NAND.sub
.subckt  make_OR input1_node input2_node output_node vdd gnd
X1 input1_node input1_node intermediate1 vdd gnd NAND
X2 input2_node input2_node intermediate2 vdd gnd NAND
X3 intermediate1 intermediate2 output_node vdd gnd NAND
.ends make_OR