//.include RING.sub
.include NAND.sub
.subckt make_XNOR input1_node input2_node output_final vdd gnd
X1 input1_node input2_node rs vdd gnd NAND
X2 rs input1_node iner1 vdd gnd NAND
X3 rs input2_node iner2 vdd gnd NAND
X4 iner1 iner2 iner3 vdd gnd NAND
X5 iner3 iner3 output_final vdd gnd NAND
.ends make_XNOR