.include RING.sub
.include NAND.sub
.subckt make_XOR input1_n input2_n output_inal vdd gnd
X1 input1_n input2_n r1 vdd gnd NAND
X2 input1_n r1 r2 vdd gnd NAND
X3 input2_n r1 r3 vdd gnd NAND
X4 r2 r3 output_inal vdd gnd NAND
.ends make_XOR