*50ns and 70 ns
.include RING.sub
.include TSMC_180nm.txt
.include NAND.sub
.include make_XOR.sub
.include make_OR.sub
.include make_AND.sub
.include make_XNOR.sub
.subckt subtractor bit1_a bit1_b bit1_c bit1_d bit2_a bit2_b bit2_c bit2_d pl5 rt2 tm2 p2 h2 vdd gnd
V_in_i_dc carry gnd DC 1.8V
X29 bit2_a b2_a vdd gnd RING   
X30 bit2_b b2_b vdd gnd RING
X31 bit2_c b2_c vdd gnd RING
X32 bit2_d b2_d vdd gnd RING
X1 bit1_d b2_d h1 vdd gnd make_XOR
X2 h1 carry h2 vdd gnd make_XOR
//h2=So
X3 bit1_d b2_d g1 vdd gnd make_AND
X4 bit1_d carry g2 vdd gnd make_AND
X5 carry b2_d g3 vdd gnd make_AND
X6 g1 g2 g4 vdd gnd make_OR
X7 g4 g3 g5 vdd gnd make_OR
//g5 is C1
X8 bit1_c b2_c p1 vdd gnd make_XOR
X9 p1 g5 p2 vdd gnd make_XOR
//p2=S1
X10 bit1_c b2_c ta1 vdd gnd make_AND
X11 bit1_c g5 ta2 vdd gnd make_AND
X12 g5 b2_c ta3 vdd gnd make_AND
X13 ta1 ta2 ta4 vdd gnd make_OR
X14 ta4 ta3 ta5 vdd gnd make_OR
//ta5 is C2
X15 bit1_b b2_b tm1 vdd gnd make_XOR
X16 tm1 ta5 tm2 vdd gnd make_XOR
//tm2=S2
X17 bit1_b b2_b tr1 vdd gnd make_AND
X18 bit1_b ta5 tr2 vdd gnd make_AND
X19 ta5 b2_b tr3 vdd gnd make_AND
X20 tr1 tr2 tr4 vdd gnd make_OR
X21 tr4 tr3 tr5 vdd gnd make_OR
//tr5 is C3
X22 bit1_a b2_a rt1 vdd gnd make_XOR
X23 rt1 tr5 rt2 vdd gnd make_XOR
//rt2 is S3
X24 bit1_a b2_a pl1 vdd gnd make_AND
X25 bit1_a tr5 pl2 vdd gnd make_AND
X26 tr5 b2_a pl3 vdd gnd make_AND
X27 pl1 pl2 pl4 vdd gnd make_OR
X28 pl4 pl3 pl5 vdd gnd make_OR
.ends subtractor
